US08071592B2
(d) 4-[2,2-Bis(methyloxy)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one
A mixture of ethyl N-[2-{[2,2-bis(methyloxy)ethyl]amino}-6-(methyloxy)-3-pyridinyl]glycinate (1 g, 3.2 mmol) and potassium carbonate (1.3 g, 9.6 mmol) in DMF (64 mL, 0.05M) was heated at 105-110° C. for 2 h. The mixture was cooled to room temperature and MnO2 (0.8 g, 11 mmol) was added and the reaction was stirred for 18 h. The reaction was filtered, concentrated, and the residue was dissolved in ethyl acetate and washed with water. The organic extract was concentrated and added to a silica column which was then eluted with 0-100% ethyl acetate in hexane affording the desired compound (0.78 g, 78%).

reactant | ethyl N-[2-{[2,2-bis(methyloxy)ethyl]amino}-6-(methyloxy)-3-pyridinyl]glycinate | 3.2 mmol, 1 g | COC(CNC1=NC(=CC=C1NCC(=O)OCC)OC)OC | C14H23N3O5
reactant | potassium carbonate | 9.6 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 0.05M, 64 mL | CN(C)C=O | C3H7NO
catalyst | MnO2 | 11 mmol, 0.8 g | O=[Mn]=O
product | 4-[2,2-Bis(methyloxy)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | COC(CN1C2=C(N=CC1=O)C=CC(=N2)OC)OC | C12H15N3O4
